### PR TITLE
[Merged by Bors] - chore(Topology): replace even more refine' by refine

### PR DESCRIPTION
**Pull request by grunweg**
(or, in one case, apply since this worked where refine didn't).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Order/LeftRightNhds.lean [hunk 1]
```diff
@@ -56,9 +56,8 @@ theorem TFAE_mem_nhdsWithin_Ioi {a b : α} (hab : a < b) (s : Set α) :
   · intro h
     rcases mem_nhdsWithin_iff_exists_mem_nhds_inter.1 h with ⟨v, va, hv⟩
     rcases exists_Ico_subset_of_mem_nhds' va hab with ⟨u, au, hu⟩
-    refine ⟨u, au, fun x hx => ?_⟩
-    refine' hv ⟨hu ⟨le_of_lt hx.1, hx.2⟩, _⟩
-    exact hx.1
+    refine ⟨u, au, fun x hx ↦ ?_⟩
+    refine hv ⟨hu ⟨le_of_lt hx.1, hx.2⟩, hx.1⟩
```
Comment (Parcly-Taxel) [inline Mathlib/Topology/Order/LeftRightNhds.lean:60]:
```suggestion
    exact ⟨u, au, fun x hx ↦ hv ⟨hu ⟨le_of_lt hx.1, hx.2⟩, hx.1⟩
```

Comment (riccardobrasca) [reply Mathlib/Topology/Order/LeftRightNhds.lean:60]: @adomani sooner or later we will take care of all these terminal `refine`, right?

**Comment by riccardobrasca** [comment]
We can take care of terminal `refine` in another PR (since sometimes `exact` is slower this is not completely trivial). Thanks!

bors merge
